US07842715B2
Preparation of 1-[4-(1-Benzothien-3-ylamino)benzoyl]-N,N-dimethylpyrrolidin-3-amine
A mixture of 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine (50 mg, 0.21 mmol), 3-bromobenzothiophene (50 mg, 0.23 mmol), sodium tert-butoxide (44 mg, 34 mmol), tris(dibenzylideneacetone)dipalladium(0) (3 mg, 0.002 mmol), CTC-Q-Phos (6 mg, 0.004 mmol) is heated to 80° C. for 16 h and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by reverse-phase semi-preparative HPLC1 to give the title compound as a white powder (11 mg), identified by HPLC and mass spectral analyses. Retention Time, 2.62 min.; MS [366.2 m/e (M+H)]. 1Semi-preparative HPLC Conditions: A=0.02% TFA in water, B=0.02% TFA in acetonitrile, 10-95% B in 8 min., 34 mL/min, 50° C., 215 nm detection, Waters Xterra™ 20×50 mm column.

reactant | 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine | 0.21 mmol, 50 mg | NC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H19N3O
reactant | 3-bromobenzothiophene | 0.23 mmol, 50 mg | BrC1=CSC2=C1C=CC=C2 | C8H5BrS
reactant | sodium tert-butoxide | 34 mmol, 44 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.002 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CTC-Q-Phos | 0.004 mmol, 6 mg | CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.C1=CC=C(C=C1)[C]2[C]([C]([C]([C]2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe]
product | 1-[4-(1-Benzothien-3-ylamino)benzoyl]-N,N-dimethylpyrrolidin-3-amine | 11 mg | S1C=C(C2=C1C=CC=C2)NC2=CC=C(C(=O)N1CC(CC1)N(C)C)C=C2 | C21H23N3OS
